US05430042
Preparation of 2-Methyl-3,4-methylenedioxypyridine
2-Methyl-3-hydroxy-4-pyridone (1.25 g, 10 mmol) was dissolved in dry DMSO (20 ml). Dibromomethane (3.5 g, 20 mmol) was added followed by sodium hydride (1 g, >20 mmol, 50-60% in oil). The mixture was left at ambient temperature under stirring for 3 days whereupon it was poured into brine (50 ml). The water-DMSO solution was extracted with methylene chloride (3×50 ml) and the collected extracts were used directly in the next step. A sample for NMR analysis was withdrawn.

reactant | 2-Methyl-3-hydroxy-4-pyridone | 10 mmol, 1.25 g | CC1=NC=CC(C1O)=O | C6H7NO2
reactant | Dibromomethane | 20 mmol, 3.5 g | BrCBr | CH2Br2
reactant | sodium hydride | >20 mmol, 1 g | [H-].[Na+]
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | brine | 50 ml | [Cl-].[Na+].O
product | 2-Methyl-3,4-methylenedioxypyridine | CC1=NC=CC2=C1OCO2 | C7H7NO2
